US07514566B2
To a solution of 1,6-dibromoisoquinolin-3-amine (0.20 g, 0.66 mmol) and tributyltin hydride (0.19 mL, 0.73 mmol) in 6 mL of dioxane in a sealable tube was added palladium tetrakistriphenylphosphine (0.038 g, 0.033 mmol). The tube was sealed and heated to 100° C. in a Personal Chemistry microwave unit for 10 minutes. The mixture was then concentrated under reduced pressure, and the residue was purified by flash chromatography on silica gel (5% to 50% EtOAc/hexanes) affording 6-bromoisoquinolin-3-amine. 1H NMR (400 MHz, CD3OD) δ ppm 8.74 (s, 1H) 7.72 (s, 1H) 7.70 (d, J=8.80 Hz, 1H) 7.27 (dd, J=8.80, 1.76 Hz, 1H) 6.68 (s, 1H).

reactant | 1,6-dibromoisoquinolin-3-amine | 0.66 mmol, 0.20 g | BrC1=NC(=CC2=CC(=CC=C12)Br)N | C9H6Br2N2
reactant | tributyltin hydride | 0.73 mmol, 0.19 mL | C(CCC)[SnH](CCCC)CCCC
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 6-bromoisoquinolin-3-amine | BrC=1C=C2C=C(N=CC2=CC1)N | C9H7BrN2
